US04259504
4-(1-Phenyl-1H-1,2,4-triazol-5-yl)pyridine
To a solution of 6.9 g. of phenylhydrazine in 100 ml. of acetic acid is added 10.0 g. of N-(dimethylaminomethylene)isonicotinamide. The reaction mixture is stirred at 90° C. for 1.5 hours and then evaporated in vacuo to an orange oil. This oil is dissolved in 250 ml. of chloroform, washed with 60 ml. of saturated sodium bicarbonate solution, then with 60 ml. of water, dried over sodium sulfate and filtered. The chloroform is removed and the residue is dissolved in 60 ml. of ether. Cooling produces 8.8 g. of the desired product as tan crystals, mp. 92°-94° C.

reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | N-(dimethylaminomethylene)isonicotinamide | CN(C)C=NC(C1=CC=NC=C1)=O | C9H11N3O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(1-Phenyl-1H-1,2,4-triazol-5-yl)pyridine | C1(=CC=CC=C1)N1N=CN=C1C1=CC=NC=C1 | C13H10N4
